Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache and double vision
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ man with a past  medical history 
notable for bladder cancer status post cystectomy, CKD stage 
III, hypertension who presents from an outside hospital after 
being found to have a small pontine hemorrhage.

The story is obtained from the patient.  Earlier this evening, 
the patient was in his usual state of health.  He did enter into 
a verbal altercation with his wife.  At around 8:00 in the 
evening, he felt an acute onset of headache near the vertex of 
his head.  This was rated at max about ___ out of 10, with no 
radiation, and resolved on its own after a few minutes.  At the 
same time, he noticed the onset of double vision, most 
noticeable when looking straight ahead. Closing one eye resolved 
the double vision (closing left eye removed left image and 
closing right eye removed right image).  His old vision was at 
its worst when looking at objects far away.  He denied any 
weakness, numbness, vertigo at this time.  He presented 
initially to ___  ___.  Systolic blood pressure upon arrival 
was reported to be in the 160s.  A noncontrast head CT showed a 
small pontine hemorrhage.  Subsequent blood pressure 
measurements were in the range of 130s.  No history of 
anticoagulants.  There was no evidence of coagulopathy.  He was 
transferred to ___ for further management. 

Review of systems otherwise unremarkable, denies recent weight 
loss, fevers, chills.
 
Past Medical History:
Bladder cancer (dx ___ s/p cystectomy with neobladder 
placement (___) and multiple revisions including removal of 
failed artificial sphincter 3 weeks ago
CKD stage III
Hypertension
Hyperlipideamia
 
Social History:
___
Family History:
No family history of neurologic disorders.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals:  T: 98.1   HR: 79   BP: 135/79 RR: 16 SaO2: 98% on room 
air
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to person, time, and 
place. Able to relate history without difficulty. Attentive, 
able to name ___ backward without difficulty. Speech is fluent 
with full sentences, intact repetition, and intact verbal 
comprehension. Naming intact.  Registers 3 out of 3 items and is 
able to recall 3 out of 3 in 5 minutes spontaneously.  No 
paraphasias.  No dysarthria. Normal prosody. No apraxia. No 
evidence of hemineglect. No left-right confusion. Able to follow 
both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to finger wiggle.  
The right eye is unable to ABduct fully to the right, otherwise 
extraocular movements are intact in all other fields of gaze.  
The patient is able to move his left eye in all directions.  At 
rest, the left eye rests slightly ADducted.  There is diplopia 
at central gaze.  Diplopia is not elicited in other fields of 
gaze.  There is no nystagmus. V1-V3 without deficits to light 
touch bilaterally. No facial movement asymmetry. Hearing intact 
to finger rub bilaterally.  Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception 
bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements.

- Gait: deferred

DISCHARGE PHYSICAL EXAM:
========================
VS: T 97.7, BP 110s-130s/70s-80s, HR ___, RR 12, O2 95% RA

General: NAD
HEENT: NCAT, no oropharyngeal lesions, neck supple
___: RRR
Pulmonary: non-labored breathing
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to person, place, month 
and year. Able to relate history and name ___ without 
difficulty. Speech is fluent with full sentences and intact 
verbal comprehension. No dysarthria. Able to follow midline and 
appendicular commands. 

- Cranial Nerves: PERRL 3->2 brisk. VF full to confrontation. At 
rest, L eye is slightly adducted. R eye unable to abduct fully, 
L eye unable to look upward fully. Otherwise EOMI. Diplopia 
throughout (except upward gaze), worse looking right, closing R 
eye erases R image, closing L eye erases L image. Few beats of 
nystagmus to the left. V1-V3 without deficits to light touch 
bilaterally. Possible slight right lower facial droop, with good 
symmetric activation. Hearing intact to finger rub bilaterally. 
Palate elevation symmetric. SCM/Trapezius strength ___ 
bilaterally. Tongue midline.

- Motor:  Normal bulk and tone throughout. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5
Bilateral plantar flexor response.

- Sensory: No deficits to light touch bilaterally. No extinction 
to DSS.

- Coordination: No dysmetria with FNF bilaterally. Bilateral 
intention tremor.

- Gait: Deferred
 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:12AM BLOOD WBC-6.7 RBC-4.25* Hgb-11.7* Hct-37.8* 
MCV-89 MCH-27.5 MCHC-31.0* RDW-15.9* RDWSD-51.0* Plt ___
___ 01:12AM BLOOD Neuts-73.0* Lymphs-12.5* Monos-12.8 
Eos-0.7* Baso-0.6 Im ___ AbsNeut-4.91 AbsLymp-0.84* 
AbsMono-0.86* AbsEos-0.05 AbsBaso-0.04
___ 01:12AM BLOOD ___ PTT-29.0 ___
___ 01:12AM BLOOD Glucose-105* UreaN-24* Creat-1.6* Na-140 
K-5.4* Cl-102 HCO3-24 AnGap-14
___ 09:30AM BLOOD ALT-15 AST-18 LD(LDH)-159 CK(CPK)-61 
AlkPhos-70 TotBili-0.4
___ 09:30AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 09:30AM BLOOD %HbA1c-5.6 eAG-114
___ 01:12AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:30AM BLOOD Albumin-4.0 Calcium-9.2 Phos-3.0 Mg-2.0 
Cholest-153
___ 09:30AM BLOOD Triglyc-350* HDL-29* CHOL/HD-5.3 
LDLcalc-54
___ 09:30AM BLOOD TSH-2.9

IMAGING:
========
___ CT (___): There is a 7 mm pontine hemorrhage 
posteriorly. No other hemorrhages are identified. There is no 
midline shift. The ventricles, sulci and basilar cisterns are 
appropriate for patient's age. There are mild periventricular 
white matter hypodensities which are nonspecific but can be seen 
in patients with small vessel ischemic changes. 

___ MRI/MRA head: Small focus of hemorrhage in the posterior 
right paramedian pons, with mild surrounding edema. Faint 
associated enhancement, can be seen with early subacute 
hematoma. Normal MRA.

DISCHARGE LABS:
===============
___ 06:35AM BLOOD WBC-7.2 RBC-3.89* Hgb-11.4* Hct-34.9* 
MCV-90 MCH-29.3 MCHC-32.7 RDW-16.1* RDWSD-52.1* Plt ___
___ 06:35AM BLOOD Glucose-96 UreaN-24* Creat-1.6* Na-141 
K-4.5 Cl-104 HCO3-19* AnGap-18*
___ 06:35AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of bladder cancer 
s/p cystectomy with multiple subsequent revision surgeries, CKD 
stage III, HTN, and HLD who presented to ___ with 
acute onset headache and double vision, found to have a small 
posterior pontine hemorrhage, and subsequently transferred to 
___.

#Posterior pontine hemorrhage
___ records revealed 7mm posterior pontine hemorrhage 
without mass-effect on cerebral aqueduct. The location of the 
hemorrhage explains the patient's exam findings of limited R eye 
abduction and worsening diplopia with rightward gaze (CN VI 
lesion). The patient also underwent an MRI/MRA of his brain 
which revealed the same small focus of hemorrhage in right 
posterior pons. The etiology of his stroke was likely 
hypertensive given his history and it's location, though an 
underlying process - such as vascular malformation vs. mass 
lesion - will need to be further investigated with outpatient 
MRI in about six weeks. The MRI he received showed no evidence 
of vascular malformation. While hospitalized, his BP was 
controlled to SBP<140 with his home dose of Lisinopril 5mg 
daily. We held his home Pravastatin in the setting of hemorrhage 
but restarted it upon discharge. Furthermore, we gave him an eye 
patch to wear around the clock, alternating eyes every ___ 
hours, which he should continue using at home. We recommend f/u 
with OT for visual issues as well as neuro-opthalamology. 

#Asymptomatic bacteriuria
History of bladder cancer and neo bladder with bowel. Asx so did 
not treat.

#CKD Stage III
No acute issues. Stable Cr. Discharge Cr 1.6.

TRANSITIONAL ISSUES:
======================
#NO NEW MEDICATIONS. Advised to continue to wear eye patch, 
alternating eyes every ___.
[] Please arrange for follow-up MRI in 6 weeks to assess for 
possible underlying lesion (vascular malformation vs. mass)
[] Please arrange for follow-up appointments with 
Neuro-ophthalmology within ___ months (patient prefers to have 
these through ___. We have scheduled an appointment w/ ___ 
neurology if he prefers to follow-up here. If not, his 
appointment should be cancelled. 
[] Recommend outpatient OT referral for eye training. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Pravastatin 30 mg PO QPM 
3. methenamine hippurate 500 mg oral BID 

 
Discharge Medications:
1.  Lisinopril 5 mg PO DAILY  
2.  methenamine hippurate 500 mg oral BID  
3.  Pravastatin 30 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute posterior pontine hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of headache and double 
vision resulting from an ACUTE HEMORRHAGIC STROKE, a condition 
where there is bleeding in your brain from a blood vessel that 
usually provides it with oxygen and nutrients. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms. In your case, 
the bleeding occurred in a part of the brain that controls fine 
movements of your eyes.

Hemmorrhagic stroke can have many different causes, so we 
assessed you for medical conditions that might raise your risk 
of having stroke. In order to prevent future strokes, we plan to 
modify those risk factors. Your risk factors are:
1. Hypertension (high blood pressure)
- You had an MRI performed showing that you don't have any 
underlying vessel malformation to put you at risk for bleed. 

Your remaining stroke risk factors include: 
2. Hyperlipidemia (high cholesterol)
3. History of cancer

Please take your medications as prescribed. Please also continue 
to wear the eye patch around the clock, alternating eyes every 
___ hours.

Please follow up with your primary care physician as listed 
below ___ @ 10:30am). Your PCP should then arrange for 
follow-up appointments with Neurology and Neuro-ophthalmology 
within the next ___ months. We have scheduled an appointment in 
our neurology clinic, but you may cancel it if you prefer to 
follow-up with the ___. As part of your follow-up, you will 
undergo a repeat MRI of your brain in about 6 weeks (once the 
blood has been reabsorbed) to look for other possible underlying 
causes of your stroke.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___